US06281356B1
1-Methyl-6-(3-methyl-3H-imidazol-4-yl)-1H-indole (5.0 g, 23.7 mmol) was dissolved in CH2Cl2 (25 mL) (dried under 3A° molecular sieves) at 0° C. A solution of oxalyl chloride in CH2Cl2 (2 M, 23.7 mL, 47.4 mmol) was added dropwise over 10 min. The mixture was stirred at 0° C. for 2.5 h and evaporated. Ether (25 mL) was added to the solid residue and the mixture was stirred for 30 min. The resulting yellow solid was filtered off, washed with ether and dried under vacuum for 30 min. 2-(1-Methyl-6-nitro-1H-indol-3-yl)acetimidic acid isopropyl ester hydrochloride (7.02 g, 22.5 mmol) and CH2Cl2 (200 mL) were added to the yellow solid at 0° C. Et3N (dried over 3A° molecular sieves) (16.5 mL, 118.6 mmol) was added dropwise over 10 min., and the orange-red mixture was stirred at room temperature overnight. The mixture was diluted with CHCl3 and washed with aqueous Na2CO3. The aqueous layer was back extracted with CHCl3. The combined organic extracts were washed with brine, dried (K2CO3) and evaporated. MeOH (150 mL) and concentrated HCl (37%, 10 mL) were added. The mixture was heated at reflux for 2 h, then cooled, diluted with CHCl3 and washed with aqueous Na2CO3. The aqueous layer was back extracted with CHCl3. The combined organic extracts were washed with brine and dried (K2CO3). The mixture was passed through a pad of silica gel (10×10 cm) and the pad was washed with 10% methanol/EtOAc. Evaporation of the combined filtrates gave the crude product as an orange solid. Crystallization of the product from EtOH/CHCl3 gave 3-[1-methyl-6-(3-methyl-3H-imidazol-4-yl)-1H-indol-3-yl]-4-(1-methyl-6-nitro-1H-indol-3-yl)pyrrole-2,5-dione (5.65 g, 49%) as an orange solid.

reactant | 1-Methyl-6-(3-methyl-3H-imidazol-4-yl)-1H-indole | 23.7 mmol, 5.0 g | CN1C=CC2=CC=C(C=C12)C=1N(C=NC1)C | C13H13N3
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(1-Methyl-6-nitro-1H-indol-3-yl)acetimidic acid isopropyl ester hydrochloride | 22.5 mmol, 7.02 g | Cl.C(C)(C)OC(CC1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)=N
reactant | Et3N | 118.6 mmol, 16.5 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 47.4 mmol, 2 M, 23.7 mL | C(Cl)Cl | CH2Cl2
product | 3-[1-methyl-6-(3-methyl-3H-imidazol-4-yl)-1H-indol-3-yl]-4-(1-methyl-6-nitro-1H-indol-3-yl)pyrrole-2,5-dione | 5.65 g, 49% | CN1C=C(C2=CC=C(C=C12)C=1N(C=NC1)C)C=1C(NC(C1C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)=O)=O | C26H20N6O4
